US06133258
The reaction procedure of Example 57 was followed except that 824 mg (5.23 mmol) of 2-chloronicotinoyl chloride, 10 ml of thionyl chloride, two droplets off DMF, 400 mg of ammonium thiocyanate, 10 ml of acetone, 1.0 g of N-methyl-4-trifluoromethoxyaniline and 10 ml of acetone were used. The resulting crude product was then recrystallized from ethanol to obtain 1.49 g of 2-[N-methyl-N-(4-trifluoromethoxylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinoyl chloride | 5.23 mmol, 824 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 400 mg | [S-]C#N.[NH4+]
reactant | N-methyl-4-trifluoromethoxyaniline | 1.0 g | CNC1=CC=C(C=C1)OC(F)(F)F | C8H8F3NO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[N-methyl-N-(4-trifluoromethoxylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 1.49 g | CN(C1=CC=C(C=C1)OC(F)(F)F)C=1SC2=C(C(N1)=O)C=CC=N2 | C15H10F3N3O2S
